US04210655
A solution of 50 g of sodium borohydride in 100 ml of water is added dropwise, with stirring and external cooling, to a solution of 56.0 g of 1-methyl-3-(2-benzofuranyl)-piperidinium-iodide in 600 ml of methanol, the manner of addition being such that the reaction temperature does not exceed 35°. The solution is subsequently stirred for 15 hours at room temprature and again a solution of 50 g of sodium borohydride in 100 ml of water is added dropwise at a temperature not exceeding 35°. The methanol is thereupon evaporated off in vacuo; the aqueous phase remaining behind is extracted twice with 300 ml of chloroform each time, the chloroform solution dried over sodium sulphate, filtered, and concentrated by evaporation. The 1-methyl-3-(2-benzofuranyl)-1,2,3,6-tetrahydropyridine obtained is recrystallised from di-isopropylether, and then melts at 63°. The hydrochloride prepared therefrom with a solution of hydrogen chloride in ethyl acetate melts, after recrystallisation from ethyl acetate, at 244°-246°.

reactant | sodium borohydride | 50 g | [BH4-].[Na+]
reactant | 1-methyl-3-(2-benzofuranyl)-piperidinium-iodide | 56.0 g | [I-].C[NH+]1CC(CCC1)C=1OC2=C(C1)C=CC=C2
reactant | sodium borohydride | 50 g | [BH4-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methanol | 600 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 1-methyl-3-(2-benzofuranyl)-1,2,3,6-tetrahydropyridine | CN1CC(C=CC1)C=1OC2=C(C1)C=CC=C2 | C14H15NO
